US05409936
Methyl 5-diphenylacetyl-4,5,6,7-tetrahydroimidazo-[4,5-c]pyridine-4-carboxylate (1.60 g) is dissolved in dimethylformamide (20 ml), and thereto is added sodium hydride (60 % oil-dispersion, 176 mg) under ice-cooling. The mixture is stirred at 0° C. for 20 minutes, and thereto is added [2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl bromide (2.40 g), and the mixture is stirred under ice-cooling for one hour, and further at room temperature for one hour. The reaction solution is concentrated under reduced pressure, and to the residue are added chloroform and water. The organic layer is dried, and evaporated to remove the solvent. The resulting residue is purified by silica gel column chromatography (solvent; chloroform/methanol=100:1) to give methyl 5-diphenylacetyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (430 mg) as a colorless foam.

reactant | Methyl 5-diphenylacetyl-4,5,6,7-tetrahydroimidazo-[4,5-c]pyridine-4-carboxylate | 1.60 g | C1(=CC=CC=C1)C(C(=O)N1C(C2=C(CC1)NC=N2)C(=O)OC)C2=CC=CC=C2 | C22H21N3O3
reactant | sodium hydride | 176 mg | [H-].[Na+]
reactant | [2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl bromide | 2.40 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr | C33H25BrN4
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 5-diphenylacetyl-3-[2'-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 430 mg | C1(=CC=CC=C1)C(C(=O)N1C(C2=C(CC1)N=CN2CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC)C2=CC=CC=C2 | C55H45N7O3
